US05223516
N-[2-[(Acetylthio)methyl]-3,3,3-trifluoro-1-oxopropyl]-L-leucine, isomer A
A stirred suspension of L-leucine (2.62 g., 20 mmol) in 35 mL of dry acetonitrile under argon was cooled to 0°-5° C. and bis(trimethylsilyl)trifluoroacetamide (10.62 mL, 40 mmol) was added. The reaction mixture was allowed to stir while slowly warming to room temperature. After 2 hours, another 3.5 mL (13 mmol) of bis(trimethylsilyl)trifluoroacetamide was added which resulted in a clear lemon color solution on additional stirring for one hour at room temperature. The reaction mixture was cooled to 0°-5° C. and 2-trifluoromethyl-3-acetylthiopropionyl chloride (4.69 g., 20 mmol.) dissolved in 8 mL of acetonitrile was added dropwise over 45 minutes. After stirring for 1.5 hours at 0°-5° C. to room temperature, TLC shows completion of the reaction. The reaction mixture was evaporated under reduced pressure to give a yellow oily residue which was partitioned between ethyl acetate (75 mL) and water (50 mL). The aqueous phase was further extracted with ethyl acetate (4×50 mL), the combined extracts were washed with 75 mL of brine, dried (MgSO4), and evaporated to give 10.3 g. of a yellow semi-solid residue. A 0.68 g. portion of this crude material was flash chromatographed on 75 g. of silica gel eluting with ethyl acetate:hexanes:acetic acid, 100:100:1 to yield 0.15 g. of the faster eluting diastereomer (isomer A) and 0.12 g. of slower eluting diastereomer (isomer B). The remaining 9.6 g. of crude material was flash chromatographed similarly (silica gel, 1300 g.) which gave 2.5 g. of isomer A, 2.7 g. of a mixture of both the diastereomers, and 1.5 g. of isomer B. The mixed fractions were rechromatographed using the same conditions to give 0.5 g. of isomer A and 1.25 g. of isomer B. Both the 2.5 g. and 0.5 g. portions of isomer A were combined, triturated with hexanes containing a few drops of ethyl acetate, filtered, and dried to yield 2.57 g. of the title isomer A product as a white crystalline solid, m.p. 150°-152° C., TLC Rf =0.40 (100:50:1 ethyl acetate:hexane:acetic acid), [α]D =-146.9° (c=1.00, methanol).

reactant | L-leucine | 20 mmol, 2.62 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | bis(trimethylsilyl)trifluoroacetamide | 40 mmol, 10.62 mL | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | bis(trimethylsilyl)trifluoroacetamide | 13 mmol, 3.5 mL | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | 2-trifluoromethyl-3-acetylthiopropionyl chloride | 20 mmol, 4.69 g | FC(C(C(=S)Cl)CC(C)=O)(F)F | C6H6ClF3OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
product | N-[2-[(Acetylthio)methyl]-3,3,3-trifluoro-1-oxopropyl]-L-leucine | C(C)(=O)SCC(C(=O)N[C@@H](CC(C)C)C(=O)O)C(F)(F)F | C12H18F3NO4S
